US07696193B2
3-Cyclobutyl-7-{[5-(3,5-dimethyl-4-isoxazolyl)-2-pyridinyl]oxy}-2,3,4,5-tetrahydro-1H-3-benzazepine (E222)
A mixture of 3-cyclobutyl-7-[(5-iodo-2-pyridinyl)oxy]-2,3,4,5-tetrahydro-1H-3-benzazepine (E207) (252 mg, 0.6 mmol), 3,5 dimethyl-4-isoxazoyl boronic acid (168 mg, 1.2 mmol) and tetrakis(triphenylphosphine)palladium(0) in 2M sodium carbonate solution (5 ml) and ethylene glycol dimethyl ether (10 ml) was stirred at reflux for 14 hours. The reaction mixture was diluted with ethyl acetate and washed with a saturated solution of sodium bicarbonate, water, brine and dried (sodium sulfate). The organic layer was filtered, concentrated in vacuo and the resulting residue was purified by column chromatography eluting with a mixture of 0.880 ammonia:methanol:dichloromethane (0.5:4.5:95) to afford the title compound (E222); MS (ES+) m/e 390 [M+H]+.

reactant | 3-cyclobutyl-7-[(5-iodo-2-pyridinyl)oxy]-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.6 mmol, 252 mg | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=NC=C(C=C2)I | C19H21IN2O
reactant | 3,5 dimethyl-4-isoxazoyl boronic acid | 1.2 mmol, 168 mg | CC1=NOC(=C1C(=O)B(O)O)C | C6H8BNO4
solvent | sodium carbonate | 2M, 5 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 10 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Cyclobutyl-7-{[5-(3,5-dimethyl-4-isoxazolyl)-2-pyridinyl]oxy}-2,3,4,5-tetrahydro-1H-3-benzazepine | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=NC=C(C=C2)C=2C(=NOC2C)C | C24H27N3O2
